US06441219B1
Preparation of Ethyl 2-Hydroxy-5-methylbenzoate
A stirred mixture of 2-methylacrolein (22.8 g, 92%, 0.30 mol), ethyl 2-chloroacetoacetate (41.1 g, 95%, 0.25 mol) and anhydrous sodium acetate (24.6 g, 0.30 mol) in acetic acid is heated at reflux temperature under N2 for 16 hr., cooled to room temperature and concentrated in vacuo to give a residue. The residue is partitioned between ethyl acetate and water. The organic phase is concentrated in vacuo to give the title product as an oil, 44.2 g, 71.9% purity (70.6% yield), characterized by NMR analysis).

reactant | 2-methylacrolein | 0.30 mol, 22.8 g | CC(C=O)=C | C4H6O
reactant | ethyl 2-chloroacetoacetate | 0.25 mol, 41.1 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | sodium acetate | 0.30 mol, 24.6 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 2-Hydroxy-5-methylbenzoate | 70.6% yield | OC1=C(C(=O)OCC)C=C(C=C1)C | C10H12O3
